US06313071B1
0.20 g of methyl N-[5-(3,3-dimethyl-1-butynyl)-2-fluorobenzyl]carbamate was dissolved in N,N-dimethylformamide (5 ml). To this solution, 0.10 g of sodium hydride (60 wt %) was added at room temperature, followed by stirring for 30 minutes. Then, 0.14 g of bromomethyl methyl ether was added at room temperature, followed by stirring for 3 hours. The reaction solution was poured into water and extracted with ethyl acetate, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography to obtain 0.13 g of methyl N-[5-(3,3-dimethyl-1-butynyl)-2-fluorobenzyl]-N-methoxymethylcarbamate as a colorless viscous liquid.

reactant | methyl N-[5-(3,3-dimethyl-1-butynyl)-2-fluorobenzyl]carbamate | 0.20 g | CC(C#CC=1C=CC(=C(CNC(OC)=O)C1)F)(C)C | C15H18FNO2
reactant | sodium hydride | 0.10 g | [H-].[Na+]
reactant | bromomethyl methyl ether | 0.14 g | COCBr | C2H5BrO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | methyl N-[5-(3,3-dimethyl-1-butynyl)-2-fluorobenzyl]-N-methoxymethylcarbamate | 0.13 g | CC(C#CC=1C=CC(=C(CN(C(OC)=O)COC)C1)F)(C)C | C17H22FNO3
